### PR TITLE
feat: Catch-Up game conjecture

### LINKED ISSUE #1324: The Catch-Up Game Conjecture
### What is the conjecture

The game **Catch-Up** (Isaksen–Ismail–Brams–Nealen, 2015) is a two-player, perfect-information game played on a finite nonempty set of positive integers $S$. [https://game.engineering.nyu.edu/projects/catch-up/](url)

---

### How the game is played (simple description)

1. Two players, P1 and P2, begin with scores, $s_1=s_2=0$. **P1 starts** by removing **one** number from $S$, adding it to her score.

2. After the first move, players alternate.  
   On a turn, the acting player removes **one or more** numbers from $S$, one at a time, and must **continue removing** numbers until their score becomes **at least the opponent’s score**—but must stay strictly behind until the final pick.

3. If the acting player cannot catch up or overtake using any legal sequence, that player receives **all remaining numbers** immediately.

4. When $S$ becomes empty, the player with the higher score wins; equal scores result in a **draw**.

---

### Example: Catch-Up({1,2,3,4})

Start with  $S$ = {1,2,3,4}, $s_1 = 0$, $s_2 = 0.$

- P1 removes **2**,  
- P2 removes **1**, since **1<2**, P2 also removes **4**,  
- P1 removes **3**, producing final scores $(5,5)$.

Thus for $N = 4$, P2 can force at least a **draw**.

---

### The conjecture

For a positive integer $N$, consider the game Catch-Up({1,2, ..., N}).
Let

$$
T_N = \sum_{k=1}^{N} k = \frac{N(N+1)}{2}.
$$

**Conjecture.**  
If $T_N$ is even (equivalently $N \equiv 0 \pmod 4$ or $N \equiv 3 \pmod 4$), then under optimal play the game Catch-Up({1,2, ..., N}) ends in a **draw**, with both players finishing with score $T_N/2$.

**Reference:**  
Isaksen, A., Ismail, M., Brams, S. J., & Nealen, A. (2015).  
*Catch-Up: A Game in Which the Lead Alternates*.  
Game & Puzzle Design 1(2), 38–49.

---

### Prerequisites needed

The conjecture is already formalized.

---

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-91 (Game theory)  
* ams-05 (Combinatorics)

---

### Choose either option

- [x] I plan on adding this conjecture to the repository  
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by mehmetmars7**
This adds the Catch-Up game conjecture, based on:

A. Isaksen, M. Ismail, S. J. Brams, A. Nealen,
"Catch-Up: A Game in Which the Lead Alternates,"
Game & Puzzle Design 1(2), 38–49 (2015).
https://game.engineering.nyu.edu/projects/catch-up/

The file includes:
- definitions of Player, Position, and Outcome,
- a recursive evaluation function `value`,
- `catchUpValueN` for the initial segment {1, ..., N},
- the conjecture `catchUp_draw_when_T_even`.

The conjecture is tagged with:
@[category research open]
@[AMS 91, AMS 11]

`lake build` succeeds locally.

Closes #1324

### CODE REVIEW

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,146 @@
...
+"Catch-Up: A Game in Which the Lead Alternates,"
+Game & Puzzle Design 1(2), 38–49, 2015.
+https://game.engineering.nyu.edu/projects/catch-up/
+
+Category and AMS classification:
+--------------------------------
+This is a research-level open problem in combinatorial game theory and number theory.
+-/
+
+import FormalConjectures.Util.ProblemImports
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
import FormalConjectures.Util.ProblemImports
  
/-!
# The Catch-Up game and conjecture

We define the `Player`, `Position`, and `Outcome` types.
The main game logic is implemented in `value`, which recursively evaluates the game outcome under optimal play.
`catchUpValueN` defines the game value for the set {1, ..., N}.
The conjecture that the game ends in a draw when T_N is even is stated as `catchUp_draw_when_T_even`.

## References

A. Isaksen, M. Ismail, S. J. Brams, A. Nealen,
"Catch-Up: A Game in Which the Lead Alternates,"
Game & Puzzle Design 1(2), 38–49, 2015.
https://game.engineering.nyu.edu/projects/catch-up/
-/
```
and can you expand the description so that we actually know what the game is about?

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+noncomputable def catchUpValueN (N : ℕ) : Outcome :=
+  value (initialSet N) 0 0 true
+
+def T (N : ℕ) : ℕ := N * (N + 1) / 2
+
+/-- English version:
+"Let T N = 1 + 2 + ⋯ + N = N (N + 1) / 2.
+If T N is even (equivalently N ≡ 0 or 3 mod 4),
+then under optimal play the game Catch-Up({1,…,N}) ends in a draw."
+-/
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
/-- Let T N = 1 + 2 + ⋯ + N = N (N + 1) / 2.
If T N is even (equivalently N ≡ 0 or 3 mod 4),
then under optimal play the game Catch-Up({1,…,N}) ends in a draw. -/
```
and can you please latex it?

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+-- Since $x \in remaining$, removing $x$ from $remaining$ decreases its cardinality by one.
+apply Finset.card_erase_lt_of_mem hx); (
+-- Since $x \in \text{remaining}$, we have $\text{remaining.erase } x \subset \text{remaining}$, and thus $\text{remaining.erase } x.card < \text{remaining.card}$.
+apply Finset.card_lt_card; exact Finset.erase_ssubset hx)
+
+/-
+Define helper functions for the Catch-Up game on {1, ..., N}.
+-/
+def initialSet (N : ℕ) : Finset ℕ :=
+  (Finset.range N).image (· + 1)
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: This is `Finset.Icc 1 N`

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! Here is a first round of comments

**Comment by mehmetmars7** [comment]
Updated the header to explain the Catch-Up rules (with example), switched initialSet to Finset.Icc 1 N, and LaTeX’d the conjecture docstring; also cleaned up the termination proof in value.

File: FormalConjectures/GameTheory/CatchUpConjecture.lean (hunk 1 above)
Comment (mehmetmars7) [reply FormalConjectures/GameTheory/CatchUpConjecture.lean]: Done. Please see below.

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,159 @@
...
+  classical
+  all_goals
+    simpa [remaining'] using Finset.card_erase_lt_of_mem hx
+
+
+/-
+Define helper functions for the Catch-Up game on {1, ..., N}.
+-/
+def initialSet (N : ℕ) : Finset ℕ :=
+  Finset.Icc 1 N
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: Please inline this definition

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,159 @@
...
+
+def T (N : ℕ) : ℕ := N * (N + 1) / 2
+
+/-- English version:
+Let \(T_N = \sum_{k=1}^{N} k = \frac{N(N+1)}{2}\).
+If \(T_N\) is even (equivalently \(N \equiv 0 \pmod 4\) or \(N \equiv 3 \pmod 4\)),
+then under optimal play the game `Catch-Up(\(\{1, \ldots, N\}\))` ends in a draw.
+-/
+
+@[category research open, AMS 91 11]
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
@[category research open, AMS 91 11]
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,159 @@
...
+theorem catchUp_draw_when_T_even (N : ℕ)
+    (h_even : Even (T N)) :
+    catchUpValueN N = Outcome.Draw := by
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
    catchUpValueN N = .Draw := by
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 7]
```diff
@@ -0,0 +1,159 @@
...
+
+namespace CatchUp
+
+noncomputable section
+open scoped BigOperators
+
+/-
+Define Player type for the Catch-Up game.
+-/
+inductive Player | P1 | P2
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
inductive Player | p1 | p2
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 8]
```diff
@@ -0,0 +1,159 @@
...
+deriving DecidableEq, Repr
+
+def Player.other : Player → Player
+| P1 => P2
+| P2 => P1
+
+/-
+Define Outcome type, negation, ordering, and bestOutcome helper.
+-/
+inductive Outcome | Win | Loss | Draw
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
inductive Outcome | win | loss | draw
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 9]
```diff
@@ -0,0 +1,159 @@
...
+  lt a b := a.toInt < b.toInt
+
+instance : DecidableRel (· ≤ · : Outcome → Outcome → Prop) :=
+  fun a b => inferInstanceAs (Decidable (a.toInt ≤ b.toInt))
+
+instance : DecidableRel (· < · : Outcome → Outcome → Prop) :=
+  fun a b => inferInstanceAs (Decidable (a.toInt < b.toInt))
+
+def bestOutcome (os : List Outcome) : Outcome :=
+  os.foldl (fun acc o => if acc < o then o else acc) Outcome.Loss
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: This is convoluted. What about
```suggestion
def Outcome.best (os : List Outcome) : Outcome :=
  os.foldl (fun
    | .win, _ => .win
    | _, .win => .win
    | .draw, _ => .draw
    | _, .draw => .draw
    | _, _ => .loss) .loss
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 10]
```diff
@@ -0,0 +1,159 @@
...
+        let remaining' := remaining.erase x
+        if isFirstMove then
+          (value remaining' s_opp s_me' false).neg
+        else
+          if s_me' ≥ s_opp then
+            (value remaining' s_opp s_me' false).neg
+          else
+            value remaining' s_me' s_opp false
+      )
+      bestOutcome outcomes
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: Could you please intersperse a lot of comments here?

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 11]
```diff
@@ -0,0 +1,159 @@
...
+instance : DecidableRel (· < · : Outcome → Outcome → Prop) :=
+  fun a b => inferInstanceAs (Decidable (a.toInt < b.toInt))
+
+def bestOutcome (os : List Outcome) : Outcome :=
+  os.foldl (fun acc o => if acc < o then o else acc) Outcome.Loss
+
+/-
+Define the recursive game value function `value`.
+-/
+noncomputable def value (remaining : Finset ℕ) (s_me s_opp : ℕ) (isFirstMove : Bool) : Outcome :=
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: Here is what I would suggest. First have a definition with the following signature, which can be used from the second move onwards
```suggestion
noncomputable def intermediateValue (remaining : Finset ℕ) (scores : Player → ℕ) : Outcome :=
```
then have another one with signature
```
def value (S : Finset ℕ) : Outcome :=
```
defined in terms of `intermediateValue`.

File: FormalConjectures/GameTheory/CatchUpConjecture.lean (hunk 6 above)
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: ... finally, this could become
```suggestion
theorem value_of_even_mul_succ_self_div_two (N : ℕ) (h_even : Even (N * (N + 1) / 2)) :
    value (.Icc 1 N) = .draw := by
```

**Comment by mehmetmars7** [comment]
Thanks -- done (more comments included)

File: FormalConjectures/GameTheory/CatchUpConjecture.lean (hunk 11 above)
Comment (mehmetmars7) [reply FormalConjectures/GameTheory/CatchUpConjecture.lean]: except this one

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 12]
```diff
@@ -0,0 +1,197 @@
...
+  valueAux S 0 0 true
+
+
+/-
+Define helper function for the Catch-Up game on {1, ..., N}.
+-/
+
+noncomputable def catchUpValueN (N : ℕ) : Outcome :=
+  value (Finset.Icc 1 N)
+
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: You aren't using this anymore
```suggestion

```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 13]
```diff
@@ -0,0 +1,197 @@
...
+/-- English version:
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
/--
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 14]
```diff
@@ -0,0 +1,197 @@
...
+--------------------------------
+This is a research-level open problem in combinatorial game theory and number theory.
+
+-/
+
+
+namespace CatchUp
+
+noncomputable section
+open scoped BigOperators
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion

noncomputable section

namespace CatchUp
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 15]
```diff
@@ -0,0 +1,197 @@
...
+
+/-
+Define Player type for the Catch-Up game.
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]:
```suggestion
An arbitrary two elements type indexing the players in the Catch-Up game.
```

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 16]
```diff
@@ -0,0 +1,197 @@
...
+-/
+inductive Player | p1 | p2
+deriving DecidableEq, Repr
+
+def Player.other : Player → Player
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean:66]: Please make sure all your definitions are documented (I believe you should see the errors locally if you run `#lint` at the bottom of the file)

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 17]
```diff
@@ -0,0 +1,197 @@
...
+| p1 => p2
+| p2 => p1
+
+/-
+Define Outcome type, negation, ordering, and bestOutcome helper.
+-/
+inductive Outcome | win | loss | draw
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: This docstring is completely outdated and refers to more things than merely the one definition it should be documenting

File: FormalConjectures/GameTheory/CatchUpConjecture.lean (hunk 11 above)
Comment (YaelDillies) [reply FormalConjectures/GameTheory/CatchUpConjecture.lean]: I guess it's good enough for now

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 18]
```diff
@@ -182,5 +182,5 @@ then under optimal play the game `Catch-Up(\(\{1, \ldots, N\}\))` ends in a draw
 theorem value_of_even_mul_succ_self_div_two (N : ℕ) (h_even : Even (N * (N + 1) / 2)) :
     value (.Icc 1 N) = .draw := by
   sorry
-end -- noncomputable section
 end CatchUp
+end -- noncomputable section
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean]: No need to end this
```suggestion
```

**Comment by mehmetmars7** [comment]
Thanks!

File: FormalConjectures/GameTheory/CatchUpConjecture.lean [hunk 19]
```diff
@@ -0,0 +1,184 @@
...
+/--
+Let \(T_N = \sum_{k=1}^{N} k = \frac{N(N+1)}{2}\).
+If \(T_N\) is even (equivalently \(N \equiv 0 \pmod 4\) or \(N \equiv 3 \pmod 4\)),
+then under optimal play the game `Catch-Up(\(\{1, \ldots, N\}\))` ends in a draw.
+-/
+@[category research open, AMS 91 11]
+theorem value_of_even_mul_succ_self_div_two (N : ℕ) (h_even : Even (N * (N + 1) / 2)) :
+    value (.Icc 1 N) = .draw := by
+  sorry
+end CatchUp
```
Comment (YaelDillies) [inline FormalConjectures/GameTheory/CatchUpConjecture.lean:185]:
```suggestion

end CatchUp
```
